US05614544
(E)-4-[2-[2-(2-Furyl)-5-methyl-4-oxazolyl]vinyl]benzyl alcohol was oxidized with activated manganese dioxide in the same manner as in Reference Example 25 to yield (E)-4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]benzaldehyde, which was then recrystallized from ethyl acetate to yield colorless prisms having a melting point of 209°-210° C.

reactant | (E)-4-[2-[2-(2-Furyl)-5-methyl-4-oxazolyl]vinyl]benzyl alcohol | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(CO)C=C1)C | C17H15NO3
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E)-4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]benzaldehyde | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(C=O)C=C1)C | C17H13NO3
